US09403810B2
Step 11: [4-Methyl-5-(2-oxaspiro[4.5]dec-7-en-8-yl)isoxazole-3-carboxylic acid]
[Ethyl 4-methyl-5-(2-oxaspiro[4.5]dec-7-en-8-yl)isoxazole-3-carboxylate] (170 mg, 0.584 mmol) in MeOH (3.60 mL) and THF (6 mL) was treated at room temperature with 2M NaOH (aq) (0.584 mL, 1.167 mmol). The resulting mixture was stirred at room temperature and treated with 2M HCl (aq) (0.2 mL) and EtOAc. The combined organic layers were dried over MgSO4 and filtered and the solvent was removed under reduced pressure to afford the title compound;

reactant | Ethyl 4-methyl-5-(2-oxaspiro[4.5]dec-7-en-8-yl)isoxazole-3-carboxylate | CC=1C(=NOC1C1=CCC2(CCOC2)CC1)C(=O)OCC | C16H21NO4
reactant | THF | 6 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1.167 mmol, 2M, 0.584 mL | [OH-].[Na+]
reactant | HCl | 2M, 0.2 mL | Cl | ClH
solvent | MeOH | 3.60 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Methyl-5-(2-oxaspiro[4.5]dec-7-en-8-yl)isoxazole-3-carboxylic acid | CC=1C(=NOC1C1=CCC2(CCOC2)CC1)C(=O)O | C14H17NO4
